US09145380B2
3-{2-[4-(3,3-Dimethyl-but-1-ynyl)-phenyl]-ethanesulfonylamino}-thiophene-2-sulfonic acid amide
The title compound was synthesized as described for Example 210 in 18% yield, starting from 3-[2-(4-bromo-phenyl)-ethanesulfonylamino]-thiophene-2-sulfonic acid amide and 3,3-dimethyl-1-butyne. Purification by column chromatography, using 50% ethyl acetate in hexanes as the eluent, followed by purification by preparative HPLC.

reactant | 3-[2-(4-bromo-phenyl)-ethanesulfonylamino]-thiophene-2-sulfonic acid amide | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(SC=C1)S(=O)(=O)N | C12H13BrN2O4S3
reactant | 3,3-dimethyl-1-butyne | CC(C#C)(C)C | C6H10
product | 3-{2-[4-(3,3-Dimethyl-but-1-ynyl)-phenyl]-ethanesulfonylamino}-thiophene-2-sulfonic acid amide | 18% yield | CC(C#CC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(SC=C1)S(=O)(=O)N)(C)C | C18H22N2O4S3
